US04029697
19.1 g. (0.1 mole) of amino methane diphosphonic acid are dissolved in 9 cc. (0.5 moles) of water and 12 g. (0.3 moles) of sodium hydroxide. 130.14 g. (1 mole) of propionic acid anhydride are added thereto and the mixture is boiled for 3 hours to 4 hours while slightly refluxing. N-propionylamino methane diphosphonic acid is obtained in solution.

reactant | amino methane diphosphonic acid | 0.1 mole | NC(P(O)(=O)O)P(O)(=O)O | CH7NO6P2
reactant | water | 0.5 moles | O | H2O
reactant | sodium hydroxide | 0.3 moles | [OH-].[Na+]
reactant | propionic acid anhydride | 1 mole | C(CC)(=O)OC(CC)=O | C6H10O3
product | N-propionylamino methane diphosphonic acid | C(CC)(=O)NC(P(O)(=O)O)P(O)(=O)O | C4H11NO7P2
